US08309767B2
2-(2-aminobenzoyl)-N-(2,4-dinitrophenyl)ethylamine
Kynuramine 2HBr (125 mg) is dissolved in 5 cc of absolute ethanol in a 50 cc flask. A solution of 2,4-dinitrofluorobenzene, 71 mg in EtOH 5 cc is then added (a clear yellow solution is formed). After five minutes, 2 cc of a 10% NaHCO3 solution are introduced drop-wise in the flask. The reaction is left at room temperature overnight. The following morning the formed light yellow precipitate is filtered, washed with water and ethanol and dried in UHV obtaining 80 mg of product (approx. yield 63%).

reactant | Kynuramine | 125 mg | C=1C=CC(=C(C1)C(=O)CCN)N | C9H12N2O
reactant | 2,4-dinitrofluorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 5 cc | C(C)O | C2H6O
solvent | EtOH | 5 cc | CCO | C2H6O
product | 2-(2-aminobenzoyl)-N-(2,4-dinitrophenyl)ethylamine | 80 mg, yield 63% | NC1=C(C(=O)C(CN)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC=C1 | C15H14N4O5
